US07176218B2
Step 1: Synthesis of ethyl 4-(dibenzylamino)-3-methoxypiperidine-1-carboxylate (1):
To a solution of racemic ethyl 4-amino-3-methoxypiperidine-1-carboxylate (1 part by mole) in DMF were added benzyl bromide (about 2.2 part by mole), potassium carbonate (about 2.4 part by mole) and potassium iodide (about 0.2 part by mole) respectively. The reaction was heated to about 80° C. After about 6 hours, the reaction was slowly diluted with water (about 12 parts by volume) and extracted with, for example, ethyl acetate. The organic layer was washed with brine and then dried over anhyh. Na2SO4. Subsequent filtration and concentration of the solvent provided the 1 as the yellow-orange oil (1 part by mole).

reactant | racemic ethyl 4-amino-3-methoxypiperidine-1-carboxylate | NC1C(CN(CC1)C(=O)OCC)OC | C9H18N2O3
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | ethyl 4-(dibenzylamino)-3-methoxypiperidine-1-carboxylate | C(C1=CC=CC=C1)N(C1C(CN(CC1)C(=O)OCC)OC)CC1=CC=CC=C1 | C23H30N2O3
